US07153878B2
4-(2-Methoxycarbonyl-vinyl)-3-methyl-benzoic acid benzyl ester
To a solution of 4-bromo-3-methyl-benzoic acid benzyl ester (36 g, 118 mmol) in propronitrile (1000 mL) is added methyl acrylate (43.3 mL) and diisopropylethyl amine (42 mL), the solution is degassed and filled with nitrogen for three times. To this mixture are added tri-o-tolyl-phosphane (14.5 g) and palladium acetate (5.34 g) under nitrogen, then heated at 110° C. overnight, cooled to room temperature, filtered through celite. The solvent is evaporated, the residue is taken into ethyl acetate and washed with water and brine, dried over sodium sulfate. Concentration and column chromatography on silica gel eluted with hexanes and ethyl acetate gave the title compound (31 g, 84.7%).

reactant | 4-bromo-3-methyl-benzoic acid benzyl ester | 118 mmol, 36 g | C(C1=CC=CC=C1)OC(C1=CC(=C(C=C1)Br)C)=O | C15H13BrO2
reactant | methyl acrylate | 43.3 mL | C(C=C)(=O)OC | C4H6O2
reactant | diisopropylethyl amine | 42 mL | C(C)(C)N(CC)C(C)C | C8H19N
product | 4-(2-Methoxycarbonyl-vinyl)-3-methyl-benzoic acid benzyl ester | 31 g, 84.7% | C(C1=CC=CC=C1)OC(C1=CC(=C(C=C1)C=CC(=O)OC)C)=O | C19H18O4
